US09108934B2
(2R,4R)-4-[(1-Butyryloxymethoxy-1H-[1,2,3]triazole-4-carbonyl)amino]-5-(5′-chloro-2′-fluorobiphenyl-4-yl)-2-hydroxypentanoic Acid
Chloromethyl butyrate (13.7 mg, 100 μmol) was added to a solution of (2R,4R)-5-(5′-chloro-2′-fluorobiphenyl-4-yl)-2-hydroxy-4-[(1-hydroxy-1H-1,2,3-triazole-4-carbonyl)amino]pentanoic acid (30.0 mg, 66.8 μmol) in acetone (0.5 mL, 6.8 mmol). Et3N (18.6 μL, 134 μmol) was added and the resulting mixture was stirred at 65° C. for 2 hours. The mixture was then concentrated in vacuo to yield a yellow liquid. The crude liquid was purified (preparative scale C18 column chromatography, small column, using 30-90% MeCN in water with 0.05% TFA) to yield the title compound as a white solid (6.0 mg). MS m/z [M+H]+ calc'd for C25H26ClFN4O7, 549.15. found 549.1.

reactant | Chloromethyl butyrate | 100 μmol, 13.7 mg | C(CCC)(=O)OCCl | C5H9ClO2
reactant | (2R,4R)-5-(5′-chloro-2′-fluorobiphenyl-4-yl)-2-hydroxy-4-[(1-hydroxy-1H-1,2,3-triazole-4-carbonyl)amino]pentanoic acid | 66.8 μmol, 30.0 mg | ClC=1C=CC(=C(C1)C1=CC=C(C=C1)C[C@H](C[C@H](C(=O)O)O)NC(=O)C=1N=NN(C1)O)F | C20H18ClFN4O5
reactant | acetone | 6.8 mmol, 0.5 mL | CC(=O)C | C3H6O
reactant | Et3N | 134 μmol, 18.6 μL | CCN(CC)CC | C6H15N
product | (2R,4R)-4-[(1-Butyryloxymethoxy-1H-[1,2,3]triazole-4-carbonyl)amino]-5-(5′-chloro-2′-fluorobiphenyl-4-yl)-2-hydroxypentanoic Acid | 6.0 mg | C(CCC)(=O)OCON1N=NC(=C1)C(=O)N[C@@H](C[C@H](C(=O)O)O)CC1=CC=C(C=C1)C1=C(C=CC(=C1)Cl)F | C25H26ClFN4O7
